US04731358
6-amino-3-methylthio-β-carboline
950 mg of 6-nitro-3-methylthio-β-carboline are hydrogenated in 80 ml of tetrahydrofuran and 80ml of ethanol with 200 mg of palladium/carbon (10%) for 7.5 hours at room temperature under normal hydrogen pressure. After filtration and concentration, the residue is chromatographed on silica gel with methylene chloride/acetone=1:1 as eluant. 600 mg of 6-amino-3-methylthio-β-carboline with a 202° C. melting point are obtained.

reactant | 6-nitro-3-methylthio-β-carboline | 950 mg | [N+](=O)([O-])C=1C=C2C=3C=C(N=CC3NC2=CC1)SC | C12H9N3O2S
reactant | ethanol | 80ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | palladium/carbon | 200 mg | [Pd] | Pd
product | 6-amino-3-methylthio-β-carboline | NC=1C=C2C=3C=C(N=CC3NC2=CC1)SC | C12H11N3S
